US03976661
3-Ethyl-5-[5,5-dimethyl-1-(1-pyrrolidinyl)-1-cyclohexen-3-ylidene]rhodanine ##SPC5##
N-(3-Chloro-5,5-dimethylcyclohex-2-en-1-ylidene)-pyrrolidinium perchlorate (3.1 g., 0.01 mol.), 3-ethylrhodanine (1.6 g., 0.011 mol.) and triethylamine (3.1 ml.) are dissolved in ethanol (20 ml.) and heated at reflux for 10 minutes. After chilling, the solid is collected on a filter, rinsed with ethanol and dried. After one recrystallization from pyridine/methanol, the yield of purified dye is 2.2 g. (65%), m.p. 234°-235°C. with decomposition. This dye is an excellent spectral sensitizer for photographic silver halide emulsions in the minus blue region of the spectrum as set forth in Table 2 hereinafter.

reactant | N-(3-Chloro-5,5-dimethylcyclohex-2-en-1-ylidene)-pyrrolidinium perchlorate | 0.01 mol, 3.1 g | Cl(=O)(=O)(=O)[O-].ClC1=CC(CC(C1)(C)C)=[N+]1CCCC1
reactant | 3-ethylrhodanine | 0.011 mol, 1.6 g | C(C)N1C(SCC1=O)=S | C5H7NOS2
reactant | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-Ethyl-5-[5,5-dimethyl-1-(1-pyrrolidinyl)-1-cyclohexen-3-ylidene]rhodanine | C(C)N1C(SC(C1=O)=C1C=C(CC(C1)(C)C)N1CCCC1)=S | C17H24N2OS2
